US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide and 3-pyridin-3-ylpropanoyl chloride, gave 5-formyl-6-methoxy-3′-nitro-N-(3-pyridin-3-ylpropanoyl)-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C14H12N2O6S
reactant | 3-pyridin-3-ylpropanoyl chloride | N1=CC(=CC=C1)CCC(=O)Cl | C8H8ClNO
product | 5-formyl-6-methoxy-3′-nitro-N-(3-pyridin-3-ylpropanoyl)-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)NC(CCC=1C=NC=CC1)=O | C22H19N3O7S
